US06962932B2
c) 6-[[1-(4-Fluorophenyl)-2-(3-pyridinyl)-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester
6-Hydroxy-1-(4-fluorophenyl)-2-(3-pyridinyl)-1H-benzimidazole was reacted with 6-bromohexanoic acid methyl ester according to general operating instructions 3.

reactant | 6-Hydroxy-1-(4-fluorophenyl)-2-(3-pyridinyl)-1H-benzimidazole | OC=1C=CC2=C(N(C(=N2)C=2C=NC=CC2)C2=CC=C(C=C2)F)C1 | C18H12FN3O
reactant | 6-bromohexanoic acid methyl ester | COC(CCCCCBr)=O | C7H13BrO2
product | 6-[[1-(4-Fluorophenyl)-2-(3-pyridinyl)-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | COC(CCCCCOC=1C=CC2=C(N(C(=N2)C=2C=NC=CC2)C2=CC=C(C=C2)F)C1)=O | C25H24FN3O3
